US04107189
1. 2-(p-ethoxyphenyl)-3-(p-hexyloxyphenyl) acrylonitrile
2 g of KOH were dissolved in 30 ml of methanol whilst being heated. The solution was cooled down to room temperature, after which 3.3 g of p-ethoxybenzylcyanide and 4 g of p-hexyloxybenzaldehyde were added. The mixture was stirred and subsequently stored at room temperature for 1 hour and then at -25° C for 2 hours. The crystallisate was filtered off and subsequently recrystallized from methanol and petroleum ether (60-80). Melting point 53.5°-54° C. Transition point nematic-isotropic 80° C. In a similar way the following compounds were obtained:

reactant | KOH | 2 g | [OH-].[K+]
reactant | p-ethoxybenzylcyanide | 3.3 g | C(C)OC1=CC=C(CC#N)C=C1 | C10H11NO
reactant | p-hexyloxybenzaldehyde | 4 g | C(CCCCC)OC1=CC=C(C=O)C=C1 | C13H18O2
solvent | methanol | 30 ml | CO | CH4O
product | 2-(p-ethoxyphenyl)-3-(p-hexyloxyphenyl) acrylonitrile | C(C)OC1=CC=C(C=C1)C(C#N)=CC1=CC=C(C=C1)OCCCCCC | C23H27NO2
